US08114865B2
Preparation of N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-[methyl-(2-piperidin-1-yl-ethyl)-amino]-2-nitro-benzamide hydrochloride [(I), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-[methyl-(2-piperidin-1-yl-ethyl)-amino]-2-nitro-phenyl], cpd. 217
A solution of N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-[methyl-(2-piperidin-1-yl-ethyl)-amino]-2-nitro-benzamide (1.86 g, 2.21 mmol) in 1,4-dioxane (50 mL) was treated with 4N HCl in 1,4-dioxane (4.42 mL, 17.68 mmol). The mixture was stirred at room temperature for 30 hours then the volatiles were removed under reduced pressure. The residue was suspended in diethylether (100 mL), stirred for 1 hour, filtered, washed with diethylether and dried in oven at 40° C. affording the title compound as orange solid (1.29 g).

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-[methyl-(2-piperidin-1-yl-ethyl)-amino]-2-nitro-benzamide | 2.21 mmol, 1.86 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=C(C=C(C=C1)N(CCN1CCCCC1)C)[N+](=O)[O-])=O | C47H42F2N6O5S
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 17.68 mmol, 4.42 mL | O1CCOCC1 | C4H8O2
product | N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-[methyl-(2-piperidin-1-yl-ethyl)-amino]-2-nitro-benzamide hydrochloride | 1.29 g | Cl.FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NNC2=CC1)NC(C1=C(C=C(C=C1)N(CCN1CCCCC1)C)[N+](=O)[O-])=O | InChI=1S/C28H28F2N6O5S.ClH/c1-34(11-12-35-9-3-2-4-10-35)20-5-7-23(26(16-20)36(38)39)28(37)31-27-24-17-21(6-8-25(24)32-33-27)42(40,41)22-14-18(29)13-19(30)15-22;/h5-8,13-17H,2-4,9-12H2,1H3,(H2,31,32,33,37);1H
